US07560596B2
Synthesis of 2′-methyl-biphenyl-3-carboxylic acid (FIG. 2, Entry 4)
Using 0.1 mol % Pd. The general procedure described in Example 3 was used with 3-chlorobenzoic acid (157 mg, 1.00 mmol), o-tolylboronic acid (163 mg, 1.20 mmol), K2CO3 (345 mg, 2.50 mmol), water (1.5 mL), Pd/L solution (0.200 mL of a Pd(OAc)2 (1.1 mg, 0.005 mmol, 0.5 mol %), sodium 2-dicyclohexylphosphino-2′,6′-dimethoxybiphenyl-3′-sulfonate (5.0 mg, 0.010 mmol, 1 mol %) solution in 1.0 mL water), 6 h, 100° C. The product was isolated as a white solid (203 mg, 96%). Mp=127° C. 1H NMR (400 MHz, CDCl3) δ: 12.9 (br-s, 1H), 8.01 (m, 2H), 7.46 (d, 1H, J=7.6 Hz), 7.40 (t, 1H, J=7.6 Hz), 7.20-7.14 (m, 4H), 2.17 (s, 3H). 13C NMR (125 MHz, CDCl3) δ: 172.8, 142.5, 140.8, 135.5, 134.8, 131.1, 130.7, 129.9, 129.4, 128.8, 128.5, 127.9, 125.2, 20.6. IR (neat, cm−1): 2962, 1689, 1309, 1258, 747. Anal. Calcd for C14H12O2: C, 79.22; H, 5.70. Found: C, 79.12; H, 5.62.

reactant | 3-chlorobenzoic acid | 1.00 mmol, 157 mg | ClC=1C=C(C(=O)O)C=CC1 | C7H5ClO2
reactant | o-tolylboronic acid | 1.20 mmol, 163 mg | C1(=C(C=CC=C1)B(O)O)C | C7H9BO2
reactant | K2CO3 | 2.50 mmol, 345 mg | C(=O)([O-])[O-].[K+].[K+]
solvent | water | 1.0 mL | O | H2O
catalyst | Pd | [Pd] | Pd
catalyst | Pd(OAc)2 | 0.005 mmol, 0.200 mL, 1.1 mg | CC(=O)[O-].CC(=O)[O-].[Pd+2]
catalyst | sodium 2-dicyclohexylphosphino-2′,6′-dimethoxybiphenyl-3′-sulfonate | 0.010 mmol, 5.0 mg | C1(CCCCC1)P(C1=C(C=CC=C1)C1=C(C(=CC=C1OC)S(=O)(=O)[O-])OC)C1CCCCC1.[Na+]
solvent | water | 1.5 mL | O | H2O
product | 2′-methyl-biphenyl-3-carboxylic acid | 203 mg, 96% | CC1=C(C=CC=C1)C1=CC(=CC=C1)C(=O)O | C14H12O2
